US04347372
Preparation of α-[1-Methyl-imidazolin-2-yl]-α-(O-methylaminocarbonyl-oximino)-acetonitrile
15.2 g (0.1 mol) of α-[1-methyl-imidazolin-2-yl]-α-oximino-acetonitrile and 6.4 g (0.11 mol) of methyl isocyanate are stirred in 200 ml of ethyl acetate with a few drops of triethylamine for 16 hours. 16 g (76.5% of theory) of end product are filtered off and this is washed with a little ethyl acetate; melting point 186°-190° C. (decomposition).

reactant | α-[1-methyl-imidazolin-2-yl]-α-oximino-acetonitrile | 0.1 mol, 15.2 g | CN1C(=NCC1)C(C#N)=NO | C6H8N4O
reactant | methyl isocyanate | 0.11 mol, 6.4 g | CN=C=O | C2H3NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
product | α-[1-Methyl-imidazolin-2-yl]-α-(O-methylaminocarbonyl-oximino)-acetonitrile | CN1C(=NCC1)C(C#N)=NOC(=O)NC | C8H11N5O2
